US04703048
In 100 ml of chloroform was suspended 25 g (120 millimoles) of 2,4-dimethoxycinnamic acid. At room temperature, 44 ml (about 600 millimoles) of thionyl chloride was added dropwise. The mixture was stirred at room temperature for 1.5 hours, and the excess of thionyl chloride and chloroform were distilled off. The residue was diluted with 200 ml of chloroform, and added dropwise at room temperature to 300 ml of of a chloroform solution of 30.2 g (120 millimoles) of benzhydrylpiperazine and 24.3 g (240 millimoles) of triethylamine. The mixture was stirred at room temperature for 3 hours, and then a 10% aqueous solution of sodium bicarbonate was added. The mixture was shaken and the organic layer was separated, washed with water, and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The resulting oily product was diluted with 200 ml of ethanol, and 15 ml of concentrated hydrochloric acid was added. The crystals precipitated were collected by filtration. Recrystallization from hydrous methanol gave 22.7 g (yield 39.5%) of 1-benzhydryl-4-(2,4-dimethoxycinnamoyl)piperazine hydrochloride as pale yellow crystals.

reactant | 2,4-dimethoxycinnamic acid | 120 millimoles, 25 g | COC1=C(C=CC(=O)O)C=CC(=C1)OC | C11H12O4
reactant | thionyl chloride | about 600 millimoles, 44 ml | S(=O)(Cl)Cl | Cl2OS
reactant | benzhydrylpiperazine | 120 millimoles, 30.2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCNCC1 | C17H20N2
reactant | triethylamine | 240 millimoles, 24.3 g | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-benzhydryl-4-(2,4-dimethoxycinnamoyl)piperazine hydrochloride | 22.7 g, yield 39.5% | Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCN(CC1)C(C=CC1=C(C=C(C=C1)OC)OC)=O | InChI=1S/C28H30N2O3.ClH/c1-32-25-15-13-22(26(21-25)33-2)14-16-27(31)29-17-19-30(20-18-29)28(23-9-5-3-6-10-23)24-11-7-4-8-12-24;/h3-16,21,28H,17-20H2,1-2H3;1H
